US07192978B2
Preparation of 2-Hydroxy-2,2-dithien-2-ylacetic acid (3R)-1-(2-phenoxyethyl)pyrrolidin-3-yl ester
1.33 g of 2-Hydroxy-2,2-dithien-2-ylacetic acid methyl ester (0.0052 mol) were dissolved in 40 ml of toluene. To this solution were added 1.08 g (0.0052 mol) of (3R)-1-(2-phenoxyethyl)pyrrolidin-3-ol (Intermediate I-15), and 0.104 g (0.0026 mol) of HNa (60% dispersion in mineral oil). The mixture was stirred 30 min at room temperature, refluxed for 45 minutes, and then refluxed with continuous removal of distillate with replacement with fresh toluene when necessary for 1.5 hours. The cooled mixture was extracted with 2N HCl acid, the aqueous layer basified with K2CO3 and extracted with CHCl3. The organic layer was washed with water, dried over Na2SO4 and evaporated to yield 1.77 g of an oil which was purified by chromatography on silica gel eluting with chloroform/ethanol/NH4OH (200:8:1). Appropriate fractions were combined and evaporated to yield 1.22 g of the title product as an oil (54.7%). This product was solidified by formation of the oxalate salt.

reactant | 2-Hydroxy-2,2-dithien-2-ylacetic acid methyl ester | 0.0052 mol, 1.33 g | COC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C11H10O3S2
reactant | (3R)-1-(2-phenoxyethyl)pyrrolidin-3-ol | 0.0052 mol, 1.08 g | O(C1=CC=CC=C1)CCN1C[C@@H](CC1)O | C12H17NO2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxy-2,2-dithien-2-ylacetic acid (3R)-1-(2-phenoxyethyl)pyrrolidin-3-yl ester | 1.77 g | O(C1=CC=CC=C1)CCN1C[C@@H](CC1)OC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C22H23NO4S2
